US07282519B2
16a. ((2S)-1-Nitrosopyrrolidin-2-yl)methan-1-ol
To a stirred mixture of (S)-(+)-2-pyrrolidinemethanol (6.52 g, 64.4 mmol) in THF (120 mL) and 3N hydrochloric acid (33 mL, 99 mmol) at 3° C. was added dropwise a solution of sodium nitrite (5.80 g, 84 mmol) in water (25 mL) over 20 minutes. The reaction mixture was warmed to room temperature and stirred for 15 hours. After being basified with aqueous sodium carbonate, the mixture was extracted with EtOAc twice, and the combined organic layers were dried over sodium sulfate, filtered, and concentrated. The residue was purified by column chromatography (silica gel, EtOAc) to give the title compound (8.04 g, 96% yield) as a liquid. 1H NMR (300 MHz, CDCl3) δ 4.53-4.31 (m, 1H), 4.30-4.27 (m, 1H), 4.02-3.93 (m, 2H), 3.70-3.52 (m, 2H), 2.23-1.89 (m, 4H). 13C NMR (75 MHz, CDCl3) δ 63.4, 62.6, 45.9, 26.2, 20.5, LRMS (API-TIS) m/z 131 (MH+).

reactant | (S)-(+)-2-pyrrolidinemethanol | 64.4 mmol, 6.52 g | N1[C@@H](CCC1)CO | C5H11NO
reactant | hydrochloric acid | 99 mmol, 3N, 33 mL | Cl | ClH
reactant | sodium nitrite | 84 mmol, 5.80 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | ((2S)-1-Nitrosopyrrolidin-2-yl)methan-1-ol | 8.04 g, 96% yield | N(=O)N1[C@@H](CCC1)CO | C5H10N2O2
